US07589232B2
Step c) Formation of N-{4-[(4-butylphenyl)ethynyl]-2-fluorobenzyl}-3-cyclopentyl-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)propanamide
The titled compound was prepared following the procedure B using 6-({4-[(4-butylphenyl)ethynyl]-2-fluorobenzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one and 3-cyclopentylpropanoyl chloride as a colorless oil (73%). 1H NMR (CDCl3, 300 MHz) δ 7.69 (m, 1H), 7.43-7.30 (m, 3H), 7.28-7.20 (m, 1H), 7.19-7.03 (m, 4H), 6.92 (d, J=8.7 Hz, 1H), 4.87 (s, 2H), 2.61 (t, J=7.7 Hz, 2H), 2.06 (m, 2H), 1.73 (s, 6H), 7.70-1.26 (m, 13H), 1.00-0.85 (m, 5H). M+ (ESI): 582. HPLC, Rt: 6.63 min (Purity: 100%).

reactant | 6-({4-[(4-butylphenyl)ethynyl]-2-fluorobenzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one | C(CCC)C1=CC=C(C=C1)C#CC1=CC(=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1)F | C29H28FNO3
reactant | 3-cyclopentylpropanoyl chloride | C1(CCCC1)CCC(=O)Cl | C8H13ClO
product | N-{4-[(4-butylphenyl)ethynyl]-2-fluorobenzyl}-3-cyclopentyl-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)propanamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC(=C(CN(C(CCC2CCCC2)=O)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1)F | C37H40FNO4
